US06734302B2
Phosgene (0.48 mL, 0.925 mmol, 1.93 M in toluene) was added dropwise to a mixture of triethylamine (0.14 mL, 1.0 mmol) and 4,5-bis-(4-chloro-phenyl)-2-(2-cyclopentyloxy-4-methoxy-phenyl)-4,5-dihydro-1H-imidazole (89 mg in THF (2 mL) at 0° C. The reaction mixture was stirred for 1 h at 0° C. and evaporated. The residue was kept under high vacuum for 30 min. Methylene chloride (2 mL) was added to the residue and the solution was added dropwise to a solution of piperazine (0.24 g, 2.78 mmol) in methylene chloride (2 mL) at 0° C. After 1 h, the reaction was worked up with aqueous sodium bicarbonate. The mixture was extracted with methylene chloride and washed with water and brine. The organic layer was extracted with 0.5 N HCl (2×50 mL). The combined aqueous layers were cooled to 0° C. and basified using 2 N NaOH. The mixture was extracted with methylene chloride (3×50 mL). The organic extracts were dried over sodium sulfate and evaporated. Flash chromatography of the residue over silica gel using 3-6% methanol in methylene chloride gave [4,5-Bis-(4-chloro-phenyl)-2-(2-cyclopentyloxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone (89 mg, 81%). HR-MS (ES, m/z) calculated for C32H35N4O3Cl2[(M+H)+]593.2081, observed 593.2084.

reactant | Phosgene | 0.925 mmol, 1.93 M, 0.48 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 4,5-bis-(4-chloro-phenyl)-2-(2-cyclopentyloxy-4-methoxy-phenyl)-4,5-dihydro-1H-imidazole | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)OC)OC1CCCC1 | C27H26Cl2N2O2
reactant | piperazine | 2.78 mmol, 0.24 g | N1CCNCC1 | C4H10N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [4,5-Bis-(4-chloro-phenyl)-2-(2-cyclopentyloxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 89 mg, 81% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)OC)OC1CCCC1 | C32H34Cl2N4O3
